US05536718
9,10-Dihydro-4H-furo[2,3-e]pyrrolo[1,2-a][1,4]diazepine
A solution of 1 mmol of 4H-furo[2,3-e]pyrrolo[1,2-a][1,4]diazepine and 0.2 g of 10% Pd/C in 10 ml of ethanol is hydrogenated for 18 hours. The reaction mixture is filtered through diatomaceous earth and the filtrate is evaporated in vacuo to give the desired product as a solid.

reactant | 4H-furo[2,3-e]pyrrolo[1,2-a][1,4]diazepine | 1 mmol | O1C=CC2=C1N=CC=1N(C2)C=CC1 | C10H8N2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.2 g | [Pd] | Pd
product | 9,10-Dihydro-4H-furo[2,3-e]pyrrolo[1,2-a][1,4]diazepine | O1C=CC2=C1NCC=1N(C2)C=CC1 | C10H10N2O
